US07932270B2
To a mixture of 5-fluoro-2-(3-fluorophenethylamino)-6-(1-methyl-1H-pyrazol-4-yl)nicotinic acid (14.3 g, 40 mmol) and DMF (300 mL) was added of HBTU (18.2 g, 48 mmol) and HOBT (6.49 g, 48 mmol). The mixture was cooled down to 0° C., 8.93 g (48 mmol) of (R)-tert-butyl 2-(aminomethyl)azetidine-1-carboxylate was added, followed by 13.9 ml of DIEA (80 mmol). The mixture was stirred at r.t for 1 hour and extracted with 300 mL EtOAc. The organic layer was washed with 500 mL brine, dried over MgSO4 and then concentrated. The residue was purified by Biotage silica gel chromatography using EtOAc:Hex (1:1) as eluant. (R)-tert-butyl 2-((5-fluoro-2-(3-fluorophenethylamino)-6-(1-methyl-1H-pyrazol-4-yl)nicotinamido)methyl)azetidine-1-carboxylate was obtained as a yellow solid (16.5 g, yield 80%). LRMS (M+H+) m/z 527.1.

reactant | 5-fluoro-2-(3-fluorophenethylamino)-6-(1-methyl-1H-pyrazol-4-yl)nicotinic acid | 40 mmol, 14.3 g | FC=1C(=NC(=C(C(=O)O)C1)NCCC1=CC(=CC=C1)F)C=1C=NN(C1)C | C18H16F2N4O2
reactant | HBTU | 48 mmol, 18.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 48 mmol, 6.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-tert-butyl 2-(aminomethyl)azetidine-1-carboxylate | 48 mmol, 8.93 g | NC[C@@H]1N(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIEA | 80 mmol, 13.9 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 2-((5-fluoro-2-(3-fluorophenethylamino)-6-(1-methyl-1H-pyrazol-4-yl)nicotinamido)methyl)azetidine-1-carboxylate | FC=1C(=NC(=C(C(=O)NC[C@@H]2N(CC2)C(=O)OC(C)(C)C)C1)NCCC1=CC(=CC=C1)F)C=1C=NN(C1)C | C27H32F2N6O3
